US04075351
To a solution of 10 g. (0.076 mol.) of 2-methyl-2-propyl-1,3-propanediol in 200 ml. of dimethoxyethane is added 12.7 g. (0.3 mol.) of 57% sodium hydride followed by an additional 400 ml. of dimethoxyethane. After stirring overnight the suspension is cooled to 4° C and a solution of 31.2 g. (0.27 mol.) of sulfamoyl chloride in 600 ml. of dimethoxyethane is added dropwise. The resulting suspension is stirred overnight at room temperature. The mixture is then filtered, the filtrate is concentrated and the residue washed with heptane. The residue is then chromatographed through SilicAR, CC-7 and eluted with 25% acetone-chloroform. The solid obtained after removel of the solvent is crystallized from a mixture of ethyl acetate-hexane-methylene chloride to afford 2-methyl-2-propyl-1,3-bis-O-sulfamyl-1,3-propanediol, m.p. 92°-94° C.

reactant | 2-methyl-2-propyl-1,3-propanediol | 0.076 mol | CC(CO)(CO)CCC | C7H16O2
reactant | sodium hydride | 0.3 mol | [H-].[Na+]
reactant | sulfamoyl chloride | 0.27 mol | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-methyl-2-propyl-1,3-bis-O-sulfamyl-1,3-propanediol | CC(COS(N)(=O)=O)(COS(N)(=O)=O)CCC | C7H18N2O6S2
